US04636521
(i) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]trifluoromethanesulphonamide
A suspension of 2-[2-(5-aminomethyl-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione, hemisulphate, hydrate (1.10 g) in pyridine (40 ml) was cooled in an icebath and treated dropwise with trifluoromethanesulphonyl chloride (0.5 ml). The mixture was stirred at room temperature for 5.5 h, further trifluoromethanesulphonyl chloride (0.5 ml) being added after 4.75 h, and water (10 ml) was added. After 10 minutes the solution was acidified with hydrochloric acid (2N) and extracted into ethyl acetate (4×100 ml). The combined extract was washed with sodium carbonate (2N; 100 ml), dried (magnesium sulphate) and evaporated to dryness, affording a yellow-brown foam (1.2 g). This was purified by chromatography on a silica column (Merck Kieselgel 60; 22 g) eluted with ethyl acetate, affording title material as a yellow-brown solid (0.91 g), m.p. 176°-8°.

reactant | 2-[2-(5-aminomethyl-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione | NCC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H17N3O2
reactant | trifluoromethanesulphonyl chloride | 0.5 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | trifluoromethanesulphonyl chloride | 0.5 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]trifluoromethanesulphonamide | 1.2 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C(F)(F)F | C20H16F3N3O4S
